US04987261
5,7-diamino-1,1,4-trimethyl-6-tert-butylindane.
The diaminoindane derivative of claim 2 wherein the derivative if 5,7-diamino-1,1,4-trimethylindane.

reactant | diaminoindane | NC1(CCC2=CC=CC=C12)N | C9H12N2
reactant | 5,7-diamino-1,1,4-trimethylindane | NC=1C(=C2CCC(C2=C(C1)N)(C)C)C | C12H18N2
product | 5,7-diamino-1,1,4-trimethyl-6-tert-butylindane | NC=1C(=C2CCC(C2=C(C1C(C)(C)C)N)(C)C)C | C16H26N2
